US08809382B2
Step 3 (5-(2-Hexyl-indol-1-yl)-5-oxo-pentanoic acid)
To a solution of 2-hexyl-1H-indole in DMSO was added KOH at RT and was stirred for 30 minutes. Then to this mixture dihydro-pyran-2,6-dione was added and stirred for 3 hours. The reaction was treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | 2-hexyl-1H-indole | C(CCCCC)C=1NC2=CC=CC=C2C1 | C14H19N
reactant | KOH | [OH-].[K+]
reactant | dihydro-pyran-2,6-dione | O1C(CCCC1=O)=O | C5H6O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-Hexyl-indol-1-yl)-5-oxo-pentanoic acid | C(CCCCC)C=1N(C2=CC=CC=C2C1)C(CCCC(=O)O)=O | C19H25NO3
